US05672609
2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]-3,6-bis(4-methoxyphenyl)pyridine
The 2-(4-hydroxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine (2.3 g, 6 mmol), N-(2-chloroethyl)pyrrolidine hydrochloride (1.1 g, 6 mmol), and powdered K2CO3 (4.1 g, 30 mmol) were stirred in 250 mL methyl ethyl ketone and refluxed 18 h. The TLC (EtOH/ CH2Cl2, 1:4) of the reaction mixture indicated some starting material remained, so more N-(2-chloroethyl)pyrrolidine hydrochloride (0.3 g, 1.6 mmol) and K2 CO3 (2 g, 15 mmol) were added and reaction mixture refluxed an additional 18 h. The reaction mixture was worked up, concentrated, and the residue was dissolved in 25 mL MeOH, treated with 5 mL HCl/ MeOH at 0° C., and concentrated. The residue was recrystallised from MeOH/ Et2O to give 1.8 g (58% yield) of product as the HCl salt: mp 230°-231° C.; 1H NMR (CDCl3) d 1.61 (bs, 2H, pyrrolidine), 2.10-2.26 (comp, 4H, pyrrolidine), 2.90-3.10 (bs, 2H, pyrrolidine), 3.48 (bs, 2H, NCH2), 3.84 (s, 3H, ArOCH3), 3.88 (s, 3H, ArOCH3), 4.10-4.14 (m, 2H, OCH2), 6.78-6.81 (d, 2H, J=9 Hz, ArH), 6.86-6.89 (d, 2H, J=9 Hz, ArH), 7.00-7.03 (d, 2H, J=9 Hz, ArH), 7.14-7.16 (d, 2H, J=9 Hz, ArH), 7.44-7.46 (d, 2H, J=9 Hz, ArH), 7.66-7.73 (m, 2H, ArH), 8.07-8.10 (d, 2H, J=9 Hz, ArH); MS(FD) 480(M+). Anal. Calcd for C31H32N2O3HCl: C, 72.01; H, 6.43; N, 5.42. Found: C, 72.02; H, 6.65; N, 5.24.

reactant | 2-(4-hydroxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine | 6 mmol, 2.3 g | OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C25H21NO3
reactant | N-(2-chloroethyl)pyrrolidine hydrochloride | 6 mmol, 1.1 g | Cl.ClCCN1CCCC1
reactant | K2CO3 | 30 mmol, 4.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-chloroethyl)pyrrolidine hydrochloride | 1.6 mmol, 0.3 g | Cl.ClCCN1CCCC1
reactant | HCl | Cl | ClH
solvent | methyl ethyl ketone | 250 mL | C(C)C(=O)C | C4H8O
solvent | EtOH CH2Cl2 | CCO.C(Cl)Cl
product | 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]-3,6-bis(4-methoxyphenyl)pyridine | 1.8 g, 58% yield | N1(CCCC1)CCOC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C31H32N2O3
